US06900231B2
12. N-[4-Chloro-2-fluoro-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-phenylacetamide (Yokomoto, M, W., et al. 1991, EP 0470 578 A1).
A suspension of N-[4-amino-2-fluoro-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-phenylacetamide (1.63 g, 5.00 mmol), as prepared according to the procedure of the preceding step, in 6N HCl (9 mL) was cooled in an ice-bath, and then a solution of NaNO2 (434 mg, 6.30 mmol) in H2O (2.4 mL) was added over a period of 5 minutes. After 30 minutes, acetic acid (2.9 mL) and concentrated HCl (2.9 mL) were added and the reaction mixture stirred for 1 hour. To this mixture was added a solution of CuCl (848 mg, 8.55 mmol) in concentrated HCl (5 mL) over a period of 20 minutes. After stirring in an ice-bath for 3 hours, the reaction mixture was extracted with EtOAc (200 mL×3). The extracts were combined, washed with H2O (2 times) and brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with EtOAc/DCM (0, 2.5, and 5%) to deliver the title compound (0.845 g, 48% yield) as a pale orange oil. 1H-NMR (400 MHz, CDCl3)δ 8.31 (s, 1H), 8.14 (t, J=8.6 Hz, 1H), 7.68-7.66 (m, 2H), 7.54-7.46 (m, 3H), 7.19 (dd, J=8.9, 1.7 Hz, 1H), 3.86 (dd, J=12.6, 6.5 Hz., 2H), 3.09 (dt, J=6.7, 2.3 Hz, 2H), 1.58 (t, J=5.7 Hz, 1H). Mass spectrum (LCMS, ESI) calc'd for C16H14ClF3NO2 (M+H): 344.1. Found: 344.2.

reactant | N-[4-amino-2-fluoro-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-phenylacetamide | 5.00 mmol, 1.63 g | NC1=C(C(=C(C=C1)NC(C(C1=CC=CC=C1)(F)F)=O)F)CCO | C16H15F3N2O2
reactant | NaNO2 | 6.30 mmol, 434 mg | N(=O)[O-].[Na+]
reactant | acetic acid | 2.9 mL | C(C)(=O)O | C2H4O2
reactant | HCl | 6N, 9 mL | Cl | ClH
reactant | HCl | 5 mL | Cl | ClH
reactant | HCl | 2.9 mL | Cl | ClH
solvent | H2O | 2.4 mL | O | H2O
catalyst | CuCl | 8.55 mmol, 848 mg | Cl[Cu]
product | N-[4-Chloro-2-fluoro-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-phenylacetamide | 0.845 g, 48% yield | ClC1=C(C(=C(C=C1)NC(C(C1=CC=CC=C1)(F)F)=O)F)CCO | C16H13ClF3NO2
